US05723606
In a stream of argon, 144 mg of 60% sodium hydride was suspended in a small volume of N,N-dimethylformamide to which, with cooling on an ice bath, was then added dropwise a solution prepared by dissolving 500 mg of 6-(4-nitrobenzoyl)-2-methyl-1,4,5,6-tetrahydroimidazo[4,5-d][1]benzazepine in 20 ml of N,N-dimethylformamide. After 1 hour of stirring at room temperature, the reaction solution was mixed with 0.11 ml of methyl iodide and stirred for 24 hours at room temperature. The reaction solution was mixed with water and chloroform, and the resulting organic layer was separated, washed with a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. After removing the solvent by distillation under a reduced pressure, the thus obtained residue was subjected to silica gel column chromatography to obtain 351 mg of 6-(4-nitrobenzoyl)-2,3-dimethyl-3,4,5,6-tetrahydroimidazo[4,5-d][1]benzazepine from the chloroform-methyl alcohol (30:1) eluate.

reactant | sodium hydride | 144 mg | [H-].[Na+]
reactant | 6-(4-nitrobenzoyl)-2-methyl-1,4,5,6-tetrahydroimidazo[4,5-d][1]benzazepine | 500 mg | [N+](=O)([O-])C1=CC=C(C(=O)N2CCC3=C(C4=C2C=CC=C4)NC(=N3)C)C=C1 | C19H16N4O3
reactant | methyl iodide | 0.11 ml | CI | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-(4-nitrobenzoyl)-2,3-dimethyl-3,4,5,6-tetrahydroimidazo[4,5-d][1]benzazepine | 351 mg | [N+](=O)([O-])C1=CC=C(C(=O)N2CCC3=C(C4=C2C=CC=C4)N=C(N3C)C)C=C1 | C20H18N4O3
